US07829707B2
(d) 1-{[3-(2-Ethoxyethoxy)pyridin-2-yl]methyl}-2-thioxo-1,2,3,5-tetrahydro-pyrrolo[3,2-d]pyrimidin-4-one
The title compound (0.051 g, 28%) was prepared in accordance with general method B using 3-({[3-(2-ethoxyethoxy)pyridin-2-yl]methyl}amino)-1H-pyrrole-2-carboxylic acid ethyl ester (0.17 g, 0.52 mmol) and ethoxycarbonyl isothiocyanate (0.07 mL, 0.62 mmol).

reactant | 3-({[3-(2-ethoxyethoxy)pyridin-2-yl]methyl}amino)-1H-pyrrole-2-carboxylic acid ethyl ester | 0.52 mmol, 0.17 g | C(C)OC(=O)C=1NC=CC1NCC1=NC=CC=C1OCCOCC | C17H23N3O4
reactant | ethoxycarbonyl isothiocyanate | 0.62 mmol, 0.07 mL | C(C)OC(=O)N=C=S | C4H5NO2S
product | 1-{[3-(2-Ethoxyethoxy)pyridin-2-yl]methyl}-2-thioxo-1,2,3,5-tetrahydro-pyrrolo[3,2-d]pyrimidin-4-one | 0.051 g, 28% | C(C)OCCOC=1C(=NC=CC1)CN1C(NC(C2=C1C=CN2)=O)=S | C16H18N4O3S
